US07067529B2
To anhydrous N,N-dimethylformamide (0.129 mL, 1.51 mmol) at 0° C. was added phosphorus oxychloride (0.068 mL, 0.67 mmol) dropwise. The mixture was warmed to room temperature and stirred for 30 minutes. The mixture was cooled in an ice-bath, 6-(3-acetoxy-propoxy)-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (142 mg, 0.30 mmol) in dichloromethane (2 mL) was added dropwise. After addition was complete, the mixture was heated on an oil bath for 4 hrs at 80° C. The mixture was cooled to 0° C. and a solution of potassium acetate (196 mg, 1.82 mmol) in water (2 mL) was added slowly. The mixture was then heated at 80° C. for 20 minutes. The mixture was cooled, poured into water and diluted with dichloromethane (60 m]L). The organic layer was washed water (2×20 mL), saturated aqueous sodium bicarbonate solution (20 mL), saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford 6-(3-acetoxy-propoxy)-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (150 mg, 99% yield) as a yellow oil. The crude product was without further purification.

reactant | N,N-dimethylformamide | 1.51 mmol, 0.129 mL | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.67 mmol, 0.068 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-(3-acetoxy-propoxy)-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 0.30 mmol, 142 mg | C(C)OC(=O)N1C(C2=CC(=C(C=C2C=C1)OCCCOC(C)=O)OC)CC1=CC(=CC=C1)OC | C26H31NO7
reactant | potassium acetate | 1.82 mmol, 196 mg | C(C)(=O)[O-].[K+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | 2 mL | O | H2O
product | 6-(3-acetoxy-propoxy)-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 150 mg, 99% yield | C(C)OC(=O)N1C(C2=CC(=C(C=C2C(=C1)C=O)OCCCOC(C)=O)OC)CC1=CC(=CC=C1)OC | C27H31NO8
